US08471005B2
Into a Round bottom flask, 2-Thioxo-2,3-dihydro-1H-pyrrolo[2,1-f][1,2,4]triazin-4-one (29.22 g, 0.1748 mol), Tetrahydrofuran (800 mL) and Methyl iodide (14.0 mL, 0.225 mol) were added, respectively. The reaction was stirred at room temperature overnight. The solvent was removed under vacuum to give a solid. The combined solid was washed with water (500 mL) and saturated NaHCO3 (500 mL). The mixture was stirred for 30 minutes. The solid was filtered and washed with water to give 2-Methylsulfanyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one as a white solid which was allowed to dry under vacuum overnight, affording 23.23 grams. 1H NMR (400 MHz, DMSO, d6) δ 12.02 (s, 1H), 7.52 (m, 1H), 6.84 (m, 1H), 6.47 (m, 1H), 2.53 (s, 3H).

reactant | 2-Thioxo-2,3-dihydro-1H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 0.1748 mol, 29.22 g | S=C1NN2C(C(N1)=O)=CC=C2 | C6H5N3OS
reactant | Methyl iodide | 0.225 mol, 14.0 mL | CI | CH3I
solvent | Tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
product | 2-Methylsulfanyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | CSC1=NN2C(C(N1)=O)=CC=C2 | C7H7N3OS
